US05116531
Synthesis of 4-(1-Methylheptyloxycarbonyl)-phenyl 4'-n-Octylbiphenyl-4-carboxylate
The titled optically active compound was synthesized in the same manner as in Example 1, except for replacing 4'-nonanoyloxybiphenyl-4-carboxylic acid as used in Example 1-(3) with 4'-octylbiphenyl-4-carboxylic acid.

reactant | 4'-nonanoyloxybiphenyl-4-carboxylic acid | C(CCCCCCCC)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C22H26O4
reactant | 4'-octylbiphenyl-4-carboxylic acid | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O2
product | 4-(1-Methylheptyloxycarbonyl)-phenyl 4'-n-Octylbiphenyl-4-carboxylate | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC(CCCCCC)C | C36H46O4
